US06521754B2
1-(4-Methoxy-7-phenyl-benzothiazol-2-yl)-3-pyridin-3-yl-thiourea
To a stirred solution of 2-amino-4-methoxy-7-phenyl-benzothiazole (80 mg, 0.3 mmol) in dioxane (3 ml) was added pyridine-3-isothiocyanate (64 mg, 0.47 mmol) and the mixture heated to 100° C. for 69 h. After cooling to r.t. the resulting yellow suspension was filtered, washed with ether (5 ml) and dried under vacuum (0.05 mmHg, 50° C., to afford the title compound as a; light yellow solid (98 mg, 80% yield), MS: m/e=393.1 (M+H+).

reactant | 2-amino-4-methoxy-7-phenyl-benzothiazole | 0.3 mmol, 80 mg | NC=1SC2=C(N1)C(=CC=C2C2=CC=CC=C2)OC | C14H12N2OS
reactant | pyridine-3-isothiocyanate | 0.47 mmol, 64 mg | C1=CC(=CN=C1)N=C=S | C6H4N2S
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
product | 1-(4-Methoxy-7-phenyl-benzothiazol-2-yl)-3-pyridin-3-yl-thiourea | COC1=CC=C(C2=C1N=C(S2)NC(=S)NC=2C=NC=CC2)C2=CC=CC=C2 | C20H16N4OS2
